US06251911B1
With the exclusion of air, 7.22 g (42.4 mmol) of 3,3-bis(methylsulfanyl)-2-cyano-acrylonitrile (Maybridge), 7.90 g (42.4 mmol) of piperazine-N-carboxylic acid tert-butyl ester (Aldrich; Milwaukee/USA) and 0.24 g (3 mmol) of pyridine are heated to boiling in 75 ml of isopropanol for 4 hours. Cooling, concentration by evaporation and drying under a high vacuum yield 3-(4-tert-butoxycarbonyl-piperazin-1-yl)-3-methylsulfanyl-2-cyano-acrylonitrile; C14H20N4SO2: calc. C54.52%, H 6.54%, N 18.17%, S 10.40%; found C54.37%, H 6.50%, N 17.85%, S 10.25%.

reactant | 3,3-bis(methylsulfanyl)-2-cyano-acrylonitrile | 42.4 mmol, 7.22 g | CSC(=C(C#N)C#N)SC | C6H6N2S2
reactant | piperazine-N-carboxylic acid tert-butyl ester | 42.4 mmol, 7.90 g | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | pyridine | 3 mmol, 0.24 g | N1=CC=CC=C1 | C5H5N
solvent | isopropanol | 75 ml | C(C)(C)O | C3H8O
product | 3-(4-tert-butoxycarbonyl-piperazin-1-yl)-3-methylsulfanyl-2-cyano-acrylonitrile | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=C(C#N)C#N)SC | C14H20N4O2S
